US07989444B2
Preparation 76: 1,5-dihydro-benzo[d]azepine-2,4-dione
4-Bromo-1H-benzo[d]azepin-2-ylamine hydrobromide (41.2 g) was dissolved in 600 ml of H2O that was previously heated to 85° C. Sodium acetate trihydrate (18.5 g) was added portion wise and the solution was heated to 90° C. for 3 h. Cooling to room temperature caused the precipitation of a white solid that was filtered-off, washed with water and desiccated under reduced pressure to afford the title compound (20.4 g, 90% yield).

reactant | 4-Bromo-1H-benzo[d]azepin-2-ylamine hydrobromide | 41.2 g | Br.BrC1=CC2=C(CC(=N1)N)C=CC=C2
reactant | Sodium acetate trihydrate | 18.5 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | H2O | 600 ml | O | H2O
product | 1,5-dihydro-benzo[d]azepine-2,4-dione | 20.4 g, 90% yield | C1C(NC(CC2=C1C=CC=C2)=O)=O | C10H9NO2
